US07307084B2
9. 2-Isopropyl-3-methyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Dimethylamide
11.6 ml Phosphoric acid (85%) and 1.2 g (3.0 mmol) 2-isopropyl-7-hydroxy-6-(3-hydroxy-3-phenyl-propyl)-3-methyl-3H-benzoimidazole-5-carboxylic acid dimethylamide were heated at 80° C. for 90 min. After cooling to room temperature the reaction mixture was poured into ice-water, neutralized with 6 N sodium hydroxide solution and extracted with ethyl acetate. The organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue was purified by chromatography on silica gel (dichloromethane/methanol=50:1) to afford 0.4 g (40%) of the title compound as a yellow solid.

reactant | Phosphoric acid | 11.6 ml | P(O)(O)(O)=O | H3O4P
reactant | 2-isopropyl-7-hydroxy-6-(3-hydroxy-3-phenyl-propyl)-3-methyl-3H-benzoimidazole-5-carboxylic acid dimethylamide | 3.0 mmol, 1.2 g | CN(C(=O)C1=CC2=C(N=C(N2C)C(C)C)C(=C1CCC(C1=CC=CC=C1)O)O)C | C23H29N3O3
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
product | 2-Isopropyl-3-methyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid Dimethylamide | 0.4 g, 40% | CN(C(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C(C)C)C)C1)C1=CC=CC=C1)C | C23H27N3O2
